US05635510
53.2 Synthesis of [3-(thiophen-2-yl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester
Prepare by the method of example 1.2 using 3-cyano-3-(thiophen-2-yl)-pentanedioic acid diethyl ester (28 mmol), cobalt (II) chloride hexahydrate (55.5 mmol), and NaBH4 (290 mmol). Chromatograph on silica gel to give the title compound.

reactant | 3-cyano-3-(thiophen-2-yl)-pentanedioic acid diethyl ester | 28 mmol | C(C)OC(CC(CC(=O)OCC)(C=1SC=CC1)C#N)=O | C14H17NO4S
reactant | NaBH4 | 290 mmol | [BH4-].[Na+]
catalyst | cobalt (II) chloride hexahydrate | 55.5 mmol | O.O.O.O.O.O.[Co](Cl)Cl
product | [3-(thiophen-2-yl)-5-oxo-pyrrolidin-3-yl]-acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C=1SC=CC1)=O | C12H15NO3S
